US08067448B2
N′-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-(1H-pyrazol-1-yl)benzohydrazide
To a pre-cooled (−45° C.) solution of (2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (134 mg, 0.50 mmol) and 4-(1H-pyrazol-1-yl)benzohydrazide (101 mg, 0.50 mmol) in anhydrous THF (10 mL) was added 1-Hydroxybenzotriazole monohydrate (77 mg, 0.50 mmol) and N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl (192 mg, 1.00 mmol) at −45° C. followed by triethylamine (0.14 mL, 1.00 mmol). The reaction mixture warmed to room temperature and stirred for 48 h, then quenched with 5% aq. citric acid (30 mL). The solution was extracted with EtOAc (30 mL). The organic extract was washed with 5% aq. Citric acid (2×20 mL), sat. aq. NaHCO3 (3×20 mL), H2O (2×20 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as an off white solid (164 mg, 73%): 1H NMR (400 MHz, CDCl3, δ in ppm) 8.85 (br s, 1H), 7.99 (d, J=2.5 Hz, 1H), 7.89 (d, J=8.6 Hz, 2H), 7.80-7.72 (m, 3H), 7.37 (dd, J=3.7, 8.2 Hz, 1H), 6.54-6.50 (m, 1H), 6.45 (dd, J=5.7, 8.6 Hz, 1H), 5.25 (d, J=6.3 Hz, 1H), 4.71 (br s, 1H), 4.53-4.45 (m, 1H), 2.32 (s, 3H), 1.36 (d, J=6.3 Hz, 3H).

reactant | (2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 0.50 mmol, 134 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@H](C)O)C | C12H13ClN2O3
reactant | 4-(1H-pyrazol-1-yl)benzohydrazide | 0.50 mmol, 101 mg | N1(N=CC=C1)C1=CC=C(C(=O)NN)C=C1 | C10H10N4O
reactant | 1-Hydroxybenzotriazole monohydrate | 0.50 mmol, 77 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl | 1.00 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.00 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N′-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-(1H-pyrazol-1-yl)benzohydrazide | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)N1N=CC=C1)=O)[C@H](C)O)C | C22H21ClN6O3
